US05131947
Synthesis of N-(2-butenyl)-N-(3-trifluoromethylphenyl)-2-bromo-2-(4-fluorophenyl)acetamide
In 40 ml of toluene, 2.6 g of 2-bromo-2-(4-fluorophenyl)acetyl chloride were gradually added dropwise at 20°-30° C. under stirring to 2.2 g of N-(2-butenyl)-N-(3-trifluoromethylphenyl)amine. After the reaction mixture was stirred for further 20 minutes, the precipitated insoluble matter was filtered off and 50 ml of toluene were added. The resulting toluene solution was washed twice with a saturated aqueous solution of sodium bicarbonate and twice with saturated saline. The toluene solution was dried over anhydrous sodium sulfate and then concentrated in an evaporator, whereby the intended compound was stoichiometrically obtained in an oily form.

reactant | 2-bromo-2-(4-fluorophenyl)acetyl chloride | 2.6 g | BrC(C(=O)Cl)C1=CC=C(C=C1)F | C8H5BrClFO
reactant | N-(2-butenyl)-N-(3-trifluoromethylphenyl)amine | 2.2 g | C(C=CC)NC1=CC(=CC=C1)C(F)(F)F | C11H12F3N
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-butenyl)-N-(3-trifluoromethylphenyl)-2-bromo-2-(4-fluorophenyl)acetamide | C(C=CC)N(C(C(C1=CC=C(C=C1)F)Br)=O)C1=CC(=CC=C1)C(F)(F)F | C19H16BrF4NO
